US04459414
3,6-Bis-(n-decylthio)-4,5-bis-(p-toluylthio)-phthalic acid N-2-hydroxyethylimide
2 g (3.95 millimols) of 4,5-bis-(p-toluylthio)-3,6-dichlorophthalic acid N-2-hydroxyethylimide, 1.51 g (8.69 millimols) of n-decane-1-thiol, 2.29 g (16.58 millimols) of potassium carbonate and 20 ml of N,N-dimethylformamide are stirred at 25° C. for 1 hour. After concentration, the residue is taken up in methylene chloride/dilute HCl solution. The extracts are dried over sodium sulfate and evaporated. After precipitation from n-hexane, 300 mg (10% of theory) of the title compound (waxy substance) are obtained.

reactant | 4,5-bis-(p-toluylthio)-3,6-dichlorophthalic acid N-2-hydroxyethylimide | 3.95 millimols, 2 g | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)SC1=CC=C(C=C1)C)SC1=CC=C(C=C1)C)Cl)O | C24H21Cl2NO4S2
reactant | n-decane-1-thiol | 8.69 millimols, 1.51 g | C(CCCCCCCCC)S | C10H22S
reactant | potassium carbonate | 16.58 millimols, 2.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,6-Bis-(n-decylthio)-4,5-bis-(p-toluylthio)-phthalic acid N-2-hydroxyethylimide | OCCN=C(C=1C(C(=O)O)=C(C(=C(C1SCCCCCCCCCC)SC1=CC=C(C=C1)C)SC1=CC=C(C=C1)C)SCCCCCCCCCC)O | C44H63NO4S4
